US07786116B2
Step D: 2′-Fluoro-4-nitro-biphenyl-3-carbaldehyde
A solution of 5-bromo-2-nitrobenzaldehyde (8.2 g, 36 mmol), 2-fluorobenzeneboronic acid (10.0 g, 71.6 mmol) and 2M K2CO3 (54 mL) in dioxane (250 mL) was degassed with nitrogen. Pd(PPh3)4 (3.9 g, 3.6 mmol) was added, and the resulting mixture was degassed again and heated to reflux for 90 minutes. The resulting mixture was then diluted with EtOAc and washed with saturated aqueous NaHCO3 solution and brine. The EtOAc extract was dried with MgSO4, filtered, and concentrated in vacuo to yield a residue. The residue was purified by silica gel chromatography eluted with ethyl acetate and heptanes from 0:100 to 5:95 to yield a yellow solid.

reactant | 5-bromo-2-nitrobenzaldehyde | 36 mmol, 8.2 g | BrC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4BrNO3
reactant | 2-fluorobenzeneboronic acid | 71.6 mmol, 10.0 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 2M, 54 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 3.6 mmol, 3.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-4-nitro-biphenyl-3-carbaldehyde | FC1=C(C=CC=C1)C1=CC(=C(C=C1)[N+](=O)[O-])C=O | C13H8FNO3
